US06437147B1
At 0° C., a solution of iodine (23.1 g, 91 mmol) in tetrahydrofuran (100 ml) was added dropwise to a suspension of sodium borohydride (8.6 g, 227 mmol) and of N-methyl-2-(3-trifluoromethylphenyl)acetamide (19.8 g, 91 mmol) in THF (150 ml). The reaction mixture was heated to reflux for 16 hours. It was cooled to 0° C. Methanol (200 ml) was added dropwise. The solvent was removed in vacuo. The residue was dissolved in a mixture of tert-butyl methyl ether (200 ml) and a 20% aqueous solution of sodium hydroxide (200 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (2×100 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (300 g), using a mixture of DCM/methanol/25% aqueous ammonia (first: 100:10:1, then 100:20:2, then 100:30:3) as eluent, to give 3.77 g of N-methyl-N-[2-(3-(trifluoromethyl)phenyl)ethyl]amine.

reactant | iodine | 91 mmol, 23.1 g | II | I2
reactant | sodium borohydride | 227 mmol, 8.6 g | [BH4-].[Na+]
reactant | N-methyl-2-(3-trifluoromethylphenyl)acetamide | 91 mmol, 19.8 g | CNC(CC1=CC(=CC=C1)C(F)(F)F)=O | C10H10F3NO
reactant | Methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | N-methyl-N-[2-(3-(trifluoromethyl)phenyl)ethyl]amine | 3.77 g | CNCCC1=CC(=CC=C1)C(F)(F)F | C10H12F3N
